US04481199
4-Methyl-5-[[4-[3-(1-piperidinylmethyl)phenoxy]butyl]amino]-4H-1,2,4-triazole-3-methanol
Lithium aluminium hydride (0.46 g) was added to a solution or methyl 4-methyl-5-[[1-oxo-4[3-(1-piperidinylmethyl)phenoxy]butyl]amino]-4H-1,2,4-triazole-3-carboxylate (0.58 g) in dry tetrahydrofuran (20 ml) under an atmosphere of dry nitrogen. The grey suspension was stirred at room temperature for 3.5 h before adding water (0.5 ml), 15% aqueous sodium hydroxide (1.0 ml), water (0.5 ml) and ethyl acetate (20 ml). The suspension was filtered and the filtrate was evaporated under reduced pressure to give a solid which was recrystallised from ethyl acetate (5 ml) to give the title compound as a white solid (0.04 g) m.p. 128°-30°.

reactant | Lithium aluminium hydride | 0.46 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 4-methyl-5-[[1-oxo-4[3-(1-piperidinylmethyl)phenoxy]butyl]amino]-4H-1,2,4-triazole-3-carboxylate | 0.58 g | CN1C(=NN=C1NC(CCCOC1=CC(=CC=C1)CN1CCCCC1)=O)C(=O)OC | C21H29N5O4
reactant | water | 0.5 ml | O | H2O
reactant | sodium hydroxide | 1.0 ml | [OH-].[Na+]
reactant | water | 0.5 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 4-Methyl-5-[[4-[3-(1-piperidinylmethyl)phenoxy]butyl]amino]-4H-1,2,4-triazole-3-methanol | 0.04 g | CN1C(=NN=C1NCCCCOC1=CC(=CC=C1)CN1CCCCC1)CO | C20H31N5O2
